US07595398B2
(S)-2-[4-(5-Cyclopropylcarbamoyl-pyridin-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (Compound 5355)
A mixture of 6-{2-[((S)-1-Benzyloxycarbonyl-pyrrolidine-2-carbonyl)-amino]-thiazol-4-yl}-nicotinic acid (0.18 g, crude), HATU (0.07 g, 0.18 mmol)), and DIEA (0.1 mL, 0.77 mmol) in DMF (5 mL) was stirred at room temperature for 30 min. then cyclopropylamine (0.030 ml, 0.4 mmol) was added and the reaction mixture was stirred at room temperature overnight. Purification by reverse phase HPLC furnished the desired product. 1HNMR (DMSO-d6) δ(ppm) 12.58-12.57 (d, 1H), 9.03 (s, 1H), 8.72-8.71 (d, 1H), 8.34-8.31 (m, 1H), 8.07-8.00 (m,2H), 7.44-7.38 (m, 2H), 7.22-7.12 (m, 2H), 5.17-4.95 (m, 2H), 4.61-4.55 (m, 1H), 3.59-3.52, (m, 2H), 2.95-2.90 (m,1H), 2.34-2.32 (m, 1H), 2.04-1.92 (m, 3H), 0.80-0.78 (m,4H); MS: 492.1 (M+H+).

reactant | 6-{2-[((S)-1-Benzyloxycarbonyl-pyrrolidine-2-carbonyl)-amino]-thiazol-4-yl}-nicotinic acid | 0.18 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(=O)NC=1SC=C(N1)C1=NC=C(C(=O)O)C=C1 | C22H20N4O5S
reactant | HATU | 0.18 mmol, 0.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.77 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 0.4 mmol, 0.030 ml | C1(CC1)N | C3H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(5-Cyclopropylcarbamoyl-pyridin-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C1=NC=C(C=C1)C(NC1CC1)=O)=O | C25H25N5O4S
